US05726319
Step A: N-(t-Butoxycarbonyl)-O-Benzyl-D-Serine Allyl Ester
N-(t-Butoxycarbonyl)-O-benzyl-D-serine (600 mg; 2.03 mmol) was dissolved in dry methylene chloride (5 ml), allyl alcohol (152 μl; 2.23 mmol) and DMAP (25 mg; 0.20 mmol) added and finally EDC (428.5 mg; 2.24 mmol) added to the acid. The reaction mixture was stirred at room temperature for 2.5 h and the resulting homogeneous solution quenched with water and extracted with methylene chloride. The methylene chloride layer was washed with 5% aqueous citric acid then 10% aqueous sodium carbonate solution. The methylene chloride layer was dried over anhydrous magnesium sulfate powder, filtered and evaporated under reduced pressure to give an oil. Chromatography of the oil using ethyl acetate and hexanes 1:2 v/v afforded the product (408 mg; 60%) as a pale yellow gum. FAB-MS:- Calculated for C36H33N5 335.1; found 336.1 (M+1).

reactant | N-(t-Butoxycarbonyl)-O-benzyl-D-serine | 2.03 mmol, 600 mg | C(C)(C)(C)OC(=O)N[C@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | allyl alcohol | 2.23 mmol, 152 μl | C(C=C)O | C3H6O
reactant | EDC | 2.24 mmol, 428.5 mg
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.20 mmol, 25 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(t-Butoxycarbonyl)-O-Benzyl-D-Serine Allyl Ester | C(C=C)OC([C@H](NC(=O)OC(C)(C)C)COCC1=CC=CC=C1)=O | C18H25NO5
